US07034016B2
A mixture of piperazine-1-carboxylic acid benzyl ester (8.8 g, 40 mmol), 2-bromo-2-methylpropionic acid ethyl ester and potassium carbonate was stirred at 150° C. for 24 h. On cooling, the resulting mixture was partitioned between dichloromethane and water. The organic layer was washed with brine, dried (MgSO4) and evaporated under reduced pressure to give 4-(1-Ethoxycarbonyl-1-methyl-ethyl)-piperazine-1-carboxylic acid benzyl ester (10.2 g, 77%) as an oil.

reactant | piperazine-1-carboxylic acid benzyl ester | 40 mmol, 8.8 g | C(C1=CC=CC=C1)OC(=O)N1CCNCC1 | C12H16N2O2
reactant | 2-bromo-2-methylpropionic acid ethyl ester | C(C)OC(C(C)(C)Br)=O | C6H11BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 4-(1-Ethoxycarbonyl-1-methyl-ethyl)-piperazine-1-carboxylic acid benzyl ester | 10.2 g, 77% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(C)(C)C(=O)OCC | C18H26N2O4
